US09126998B2
rac-Benzyl [2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-3-isopropoxypropyl]carbamate
At RT, 1.28 g of racemic benzyl (2-hydroxy-3-isopropoxypropyl)carbamate (4.79 mmol, 1 equivalent), 0.85 g of phthalimide (5.75 mmol, 1.2 equivalents) and 1.88 g of triphenylphosphine (7.2 mmol, 1.5 equivalent) were initially charged in 20 ml of dry tetrahydrofuran. 1.42 ml of diisopropyl azodicarboxylate (7.2 mmol, 1.5 equivalent) were added dropwise, and the mixture was stirred at RT for 2 h. The reaction mixture was concentrated under reduced pressure and purified by chromatography on silica gel (Biotage Isolera; cyclohexane/ethyl acetate gradient as mobile phase). This gave 2.3 g (66% pure; 78% of theory) of the title compound (contaminated with diisopropyl hydrazine-1,2-dicarboxylate).

reactant | racemic benzyl (2-hydroxy-3-isopropoxypropyl)carbamate | 4.79 mmol, 1.28 g, 1 equivalent | OC(CNC(OCC1=CC=CC=C1)=O)COC(C)C | C14H21NO4
reactant | phthalimide | 5.75 mmol, 0.85 g, 1.2 equivalents | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 7.2 mmol, 1.88 g, 1.5 equivalent | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 7.2 mmol, 1.42 ml, 1.5 equivalent | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | rac-Benzyl [2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-3-isopropoxypropyl]carbamate | O=C1N(C(C2=CC=CC=C12)=O)C(CNC(OCC1=CC=CC=C1)=O)COC(C)C | C22H24N2O5
